US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(propyl)-amide
Prepared analogously to Example 1c from n-propylamine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | n-propylamine | C(CC)N | C3H9N
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(propyl)-amide | C(CC)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C21H24BrNO
